US04983723
In 50 ml of anhydrous acetone was dissolved 2.5 g of 4-(4-hydroxy-2,6,6-trimethylcyclohex-1-enyl)but-3-en-2-ol, and 10.4 g of activated manganese dioxide was added to the solution, followed by heating at 40° to 50° C. for 24 hours while vigorous stirring. After completion of the reaction, the reaction mixture was allowed to cool to room temperature, and any insoluble matter was removed by filtration. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to obtain 1.5 g (yield: 60%) of 4-(4-hydroxy-2,6,6-trimethylcyclohex-1-enyl)but-3-en-2-one.

reactant | 4-(4-hydroxy-2,6,6-trimethylcyclohex-1-enyl)but-3-en-2-ol | 2.5 g | OC1CC(=C(C(C1)(C)C)C=CC(C)O)C | C13H22O2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
catalyst | manganese dioxide | 10.4 g | [O-2].[O-2].[Mn+4]
product | 4-(4-hydroxy-2,6,6-trimethylcyclohex-1-enyl)but-3-en-2-one | 1.5 g, yield: 60% | OC1CC(=C(C(C1)(C)C)C=CC(C)=O)C | C13H20O2
